US06583135B2
Preparation of tert-Butyl 8,9-Dichloro-6-[2-(4-methoxyanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
DMAP (60 mg, 0.49 mmol), p-anisidine (66 mg, 0.54 mmol) and DIC (0.084 mL, 0.54 mmol) were added to the solution of crude [3-(tert-butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid (0.20 g, 0.48 mmol) in dry THF (2.5 mL). After 18 h, the reaction was diluted with EtOAc and washed with 10% aqueous citric acid, saturated aqueous NaHCO3, and brine. The organic layer was then dried over Na2SO4, decanted, and concentrated. The crude product was first purified by column chromatography (Biotage, 40S, SIM) with CH2Cl2/EtOAc (gradient, 99:1 to 95:5) to give 81 mg of impure product. Then, crystallization from EtOAc/heptane gave 73 mg (29%) of a white solid: mp 151-151.5° C.; IR (diffuse reflectance) 3288, 1695, 1661, 1550, 1513, 1473, 1422, 1367, 1318, 1269, 1250, 1172, 1161, 1118, 831 cm−1; MS (CI) m/z 518 (M+H+), 222, 221, 220, 167, 166, 124, 59, 58, 52, 51; Anal. Calcd for C26H29Cl2N3O4: C, 60.24; H, 5.64; N, 8.10; found: C, 60.23; H, 5.73; N, 8.10.

reactant | p-anisidine | 0.54 mmol, 66 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | DIC | 0.54 mmol, 0.084 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | [3-(tert-butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid | 0.48 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=C(C(=CC3C2CC1)Cl)Cl)CC(=O)O | C19H22Cl2N2O4
catalyst | DMAP | 0.49 mmol, 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 8,9-Dichloro-6-[2-(4-methoxyanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 81 mg | ClC=1C(=CC=2C3=C(N(C2C1)CC(=O)NC1=CC=C(C=C1)OC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C26H29Cl2N3O4
